US06562811B1
To a suspension of methoxymethylphosphonium chloride (5.14 g, 15 mmol) in THF (18 mL) was added potassium tert-butoxide (1.98 g, 15 mmol) at 0° C., and the mixture was stirred at 0° C. for 0.5 hr. A solution of tert-butyl 3-formyl-1-piperidinecarboxylate (2.13 g, 10 mmol) in THF (8 mL) was added dropwise at −20° C., and the resulting mixture was stirred at 0° C. to room temperature overnight. The mixture was partitioned between toluene and water. The separated organic phase was washed with brine, dried over Na2SO4, filtered, and evaporated. Purification by column chromatography on silica gel (hexane/ethyl acetate=5/1) gave tert-butyl 3-(2-methoxyethenyl)-1-piperidinecarboxylate as a colorless oil (1.16 g, yield; 48%).

reactant | methoxymethylphosphonium chloride | 15 mmol, 5.14 g | [Cl-].COC[PH3+]
reactant | potassium tert-butoxide | 15 mmol, 1.98 g | CC(C)([O-])C.[K+]
reactant | tert-butyl 3-formyl-1-piperidinecarboxylate | 10 mmol, 2.13 g | C(=O)C1CN(CCC1)C(=O)OC(C)(C)C | C11H19NO3
solvent | THF | 18 mL | C1CCOC1 | C4H8O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-(2-methoxyethenyl)-1-piperidinecarboxylate | 1.16 g, yield; 48% | COC=CC1CN(CCC1)C(=O)OC(C)(C)C | C13H23NO3
